US07642264B2
2-(2-Chloro-pyridin-4-yl)-4-methyl-6-(3-methyl-4-trifluoromethyl-phenyl)-pyrimidine
The title compound was prepared from 2-chloro-4-(3-methyl-4-trifluoromethyl-phenyl)-6-methyl-pyrimidine (example A.40) (0.401 g, 1.4 mmol) and commercially available 2-chloro-pyridine-4-boronic acid (0.286 g, 1.82 mmol) according to the general procedure IVb. Obtained as a light brown solid (0.11 g, 22%). MS (ISP) 364.1 [(M+H)+]; mp 92° C.

reactant | 2-chloro-4-(3-methyl-4-trifluoromethyl-phenyl)-6-methyl-pyrimidine | 1.4 mmol, 0.401 g | ClC1=NC(=CC(=N1)C1=CC(=C(C=C1)C(F)(F)F)C)C | C13H10ClF3N2
reactant | 2-chloro-pyridine-4-boronic acid | 1.82 mmol, 0.286 g | ClC1=NC=CC(=C1)B(O)O | C5H5BClNO2
product | 2-(2-Chloro-pyridin-4-yl)-4-methyl-6-(3-methyl-4-trifluoromethyl-phenyl)-pyrimidine | ClC1=NC=CC(=C1)C1=NC(=CC(=N1)C)C1=CC(=C(C=C1)C(F)(F)F)C | C18H13ClF3N3
